US05783704
4-(Pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one (Compound 1.117 in Table 1)
A mixture of 4 g of 4-amino-1,2,4-triazol-3-one and 100 ml of alcohol is heated to the reflux temperature and 4.3 g of pyridine-3-carbaldehyde and 2 drops of 6N hydrochloric acid are added thereto. After 30 minutes under reflux the reaction mixture is cooled to 20°. The product that has precipitated is then filtered off with suction and dried under a high vacuum. 4.6 g of the title compound having a melting point of 264°-265° are obtained.

reactant | 4-amino-1,2,4-triazol-3-one | 4 g | NN1C(NN=C1)=O | C2H4N4O
reactant | pyridine-3-carbaldehyde | 4.3 g | N1=CC(=CC=C1)C=O | C6H5NO
catalyst | hydrochloric acid | 6N, 2 drops | Cl | ClH
product | 4-(Pyridin-3-ylmethyleneamino)-1,2,4-triazol-3-one | N1=CC(=CC=C1)C=NN1C(NN=C1)=O | C8H7N5O
